* MCP6022 self-contained dual operational-amplifier model for KiCad/ngspice
* Contains the official Microchip MCP6021 single-channel macromodel below,
* followed by an eight-pin dual-channel MCP6022 wrapper.
*
* MCP6022 physical pin order:
*   1 OUTA   2 INA-   3 INA+   4 VSS
*   5 INB+   6 INB-   7 OUTB   8 VDD
*
* QSPICE compatibility adjustments:
*   - Added 1 mOhm series resistance to the internal DC voltage sources.
*     This removes ideal-source branch singularities.
*   - Corrected the misplaced parentheses in the G35/G36 TABLE definitions.
*   - Replaced the output-stage TABLE clamps with QSPICE behavioral sources
*     and native diode primitives.
*   - Added only local parasitic capacitances/resistances at high-impedance
*     internal nodes, following the established QSPICE translation pattern
*     for Microchip operational-amplifier macromodels.
*
.SUBCKT MCP6021 1 2 3 4 5
*               | | | | |
*               | | | | Output
*               | | | Negative Supply
*               | | Positive Supply
*               | Inverting Input
*               Non-inverting Input
*
********************************************************************************
* Software License Agreement                                                   *
*                                                                              *
* The software supplied herewith by Microchip Technology Incorporated (the     *
* 'Company') is intended and supplied to you, the Company's customer, for use  *
* soley and exclusively on Microchip products.                                 *
*                                                                              *
* The software is owned by the Company and/or its supplier, and is protected   *
* under applicable copyright laws. All rights are reserved. Any use in         *
* violation of the foregoing restrictions may subject the user to criminal     *
* sanctions under applicable laws, as well as to civil liability for the       *
* breach of the terms and conditions of this license.                          *
*                                                                              *
* THIS SOFTWARE IS PROVIDED IN AN 'AS IS' CONDITION. NO WARRANTIES, WHETHER    *
* EXPRESS, IMPLIED OR STATUTORY, INCLUDING, BUT NOT LIMITED TO, IMPLIED        *
* WARRANTIES OF MERCHANTABILITY AND FITNESS FOR A PARTICULAR PURPOSE APPLY TO  *
* THIS SOFTWARE. THE COMPANY SHALL NOT, IN ANY CIRCUMSTANCES, BE LIABLE FOR    *
* SPECIAL, INCIDENTAL OR CONSEQUENTIAL DAMAGES, FOR ANY REASON WHATSOEVER.     *
********************************************************************************
*
* The following op-amps are covered by this model:
*      MCP6021,MCP6021R,MCP6022,MCP6023,MCP6024
*
* Revision History:
*     REV A: 10-Feb-01, KEB (created model)
*     REV B: 27-Aug-06, HNV (added over temperature, improved output stage,
*                            fixed overdrive recovery time)
*                            (MC_RQ, 27-Aug-06, Level 1.17)
*
* Recommendations:
*      Use PSPICE (other simulators may require translation)
*      For a quick, effective design, use a combination of: data sheet
*            specs, bench testing, and simulations with this macromodel
*      For high impedance circuits, set GMIN=100F in the .OPTIONS statement
*
* Supported:
*      Typical performance for temperature range (-40 to 125) degrees Celsius
*      DC, AC, Transient, and Noise analyses.
*      Most specs, including: offsets, DC PSRR, DC CMRR, input impedance,
*            open loop gain, voltage ranges, supply current, ... , etc.
*      Temperature effects for Ibias, Iquiescent, Iout short circuit
*            current, Vsat on both rails, Slew Rate vs. Temp and P.S.
*
* Not Supported:
*      Chip select (MCP6023)
*      Some Variation in specs vs. Power Supply Voltage
*      Monte Carlo (Vos, Ib), Process variation
*      Distortion (detailed non-linear behavior)
*      Behavior outside normal operating region
*
* Input Stage
V10  3 10 -500M Rser=1m
R10 10 11 690K
R11 10 12 690K
G10 10 11 10 11 288U
G11 10 12 10 12 288U
C11 11 12 0.2P
C12  1  0 6.00P
E12 71 14 POLY(4) 20 0 21 0 26 0 27 0   0 1 1 1 1
G12 1 0 62 0 1m
M12 11 14 15 15 NMI
G13 1 2 62 0 .08m
M14 12 2 15 15 NMI
G14 2 0 62 0 1m
C14  2  0 6.00P
I15 15 4 225.0U
V16 16 4 -300M Rser=1m
GD16 16 1 TABLE {V(16,1)} ((-100,-1p)(0,0)(1m,1u)(2m,1m))
V13 3 13 -300M Rser=1m
GD13 2 13 TABLE {V(2,13)} ((-100,-1p)(0,0)(1m,1u)(2m,1m))
R71  1  0 20.0E12
R72  2  0 20.0E12
R73  1  2 20.0E12
I80  1  2 500E-15
*
* Noise, PSRR, and CMRR
I20 21 20 423U
D20 20  0 DN1
D21  0 21 DN1
C2120 21 20 10F
G26  0 26 POLY(2) 3 0 4 0   0.00 -31.6U -79.4U
R26 26  0 1
E271 275 0 1 0 1
E272 276 0 2 0 1
R271 275 271 37k
R272 276 272 37k
R273 271 0 1k
R274 272 0 1k
C271 275 271 3p
C272 276 272 3p
G27  0 27 POLY(2) 271 0 272 0  -327U 500U 500U
R27 27  0 1
*
* Open Loop Gain, Slew Rate
G30  0 30 12 11 1
R30 30  0 1.00K
C3130 30 0 100F
G31 0 31 3 4 4
I31 0 31 DC 76.9
R31 31  0 1 TC=2.34M,-4.57U
GD31 30 0 TABLE {V(30,31)} ((-100,-1n)(0,0)(1m,0.1)(2m,2))
G32 32 0 3 4 10
I32 32 0 DC 65
R32 32  0 1 TC=1.80M,-3.97U
GD32 0 30 TABLE {V(30,32)} ((-2m,2)(-1m,0.1)(0,0)(100,-1n))
G33  0 33 30 0 1m
R33  33 0 1K
G34  0 34 33 0 1.00
R34  34 0 1K
C34  34 0 14U
G37  0 37 34 0 1m
R37  37 0 1K
C37  37 0 6P
G38  0 38 37 0 1m
R38  39 0 1K
L38  38 39 31U Rser=1m Rpar=1Meg
E38  35 0 38 0 1
G35 33 0 TABLE {V(35,3)} ((-1,-1n)(0,0)(50.0,1n)(55.0,1))
G36 33 0 TABLE {V(35,4)} ((-55.0,-1)(-50.0,-1n)(0,0)(1,1n))
*
* Output Stage
R80 50 0 100MEG
BG50 0 50 I=V(57,96)*2 Rpar=1K Cpar=50F
R58 57  96 0.50
CR58 57 96 0.2N
R57 57  0 500
CR57 57 0 0.1P
C58  5  0 2.00P
G57  0 57 POLY(3) 3 0 4 0 35 0   0 0.75M 0.8M 2.00M
D55  57 55 DM_QS
D55S 57 55 DMS_QS
D56  56 57 DM_QS
D56S 56 57 DMS_QS
E55 55  0 POLY(2) 3 0 51 0 -1.4M 1 -19.1M
E56 56  0 POLY(2) 4 0 52 0 3.5M 1 -19.0M
R51 51 0 1k
R52 52 0 1k
BD51 51 0 V=uramp(V(50))
BD52 52 0 V=-uramp(-V(50))
G53  3  0 POLY(1) 51 0  -50.0U 1M
G54  0  4 POLY(1) 52 0  -50.0U -1M
*
* Current Limit
G99 96 5 99 0 1
R98 0 98 1 TC=3.18M,-842N
G97 0 98 TABLE { V(96,5) } ((-11.0,-23.0M)(-1.00M,-22.7M)(0,0)(1.00M,22.7M)(11.0,23.0M))
E97 99 0 VALUE { V(98)*((V(3)-V(4))*0.00 + 1.00)}
D98 4 5 DESD
D99 5 3 DESD
*
* Temperature / Voltage Sensitive IQuiscent
R61 0 61 1 TC=2.62M,-1.92U
CR61 61 0 10N
G61 3 4 61 0 1
G60 0 61 TABLE {V(3, 4)}
+ ((0,0)(900M,9.2U)(1.1,50U)(1.3,240U)
+ (2.1,870U)(2.2,900U)(5.5,980U))
*
* Temperature Sensistive offset voltage
I73 0 70 DC 1uA
R74 0 70 1 TC=3.5
CR74 70 0 100N
E75 1 71 70 0 1
*
* Temp Sensistive IBias
I62 0 62 DC 1uA
R62 0 62 REXP  245U
CR62 62 0 10N
*
* Models
.MODEL NMI NMOS(L=2.00U W=42.0U KP=20.0U LEVEL=1 )
.MODEL DESD  D   N=1 IS=1.00E-15 Cjo=1F
.MODEL DN1 D   IS=1P KF=12.5F AF=1 Cjo=1F
.MODEL DM_QS D Ron=1m Roff=20G Vfwd=1m Epsilon=20u
.MODEL DMS_QS D Ron=1 Roff=20G Vfwd=0 Epsilon=10u
.MODEL REXP RES TCE= 9.16
.ENDS MCP6021

* Dual MCP6022 wrapper using the physical package pin order above.
.SUBCKT MCP6022 1 2 3 4 5 6 7 8
XA 3 2 8 4 1 MCP6021
XB 5 6 8 4 7 MCP6021
.ENDS MCP6022
