* MCP6022/MCP6024 self-contained operational-amplifier models for QSPICE
* Contains the official Microchip MCP6021 single-channel macromodel below,
* followed by package wrappers for the dual MCP6022 and quad MCP6024.
*
* MCP6022 physical pin order:
*   1 OUTA   2 INA-   3 INA+   4 VSS
*   5 INB+   6 INB-   7 OUTB   8 VDD
*
* MCP6024 physical pin order:
*   1 OUTA   2 INA-   3 INA+   4 VDD
*   5 INB+   6 INB-   7 OUTB   8 OUTC
*   9 INC-  10 INC+  11 VSS   12 IND+
*  13 IND-  14 OUTD
*
* QSPICE compatibility adjustments:
*   - Added 1 mOhm series resistance to the internal DC voltage sources.
*     This removes ideal-source branch singularities.
*   - Corrected the misplaced parentheses in the G35/G36 TABLE definitions.
*   - Replaced the output-stage TABLE clamps with QSPICE behavioral sources
*     and native diode primitives.
*   - Added only local parasitic capacitances/resistances at high-impedance
*     internal nodes, following the established QSPICE translation pattern
*     for Microchip operational-amplifier macromodels.
*
.SUBCKT MCP6021 1 2 3 4 5
*               | | | | |
*               | | | | Output
*               | | | Negative Supply
*               | | Positive Supply
*               | Inverting Input
*               Non-inverting Input
*
********************************************************************************
* Software License Agreement                                                   *
*                                                                              *
* The software supplied herewith by Microchip Technology Incorporated (the     *
* 'Company') is intended and supplied to you, the Company's customer, for use  *
* soley and exclusively on Microchip products.                                 *
*                                                                              *
* The software is owned by the Company and/or its supplier, and is protected   *
* under applicable copyright laws. All rights are reserved. Any use in         *
* violation of the foregoing restrictions may subject the user to criminal     *
* sanctions under applicable laws, as well as to civil liability for the       *
* breach of the terms and conditions of this license.                          *
*                                                                              *
* THIS SOFTWARE IS PROVIDED IN AN 'AS IS' CONDITION. NO WARRANTIES, WHETHER    *
* EXPRESS, IMPLIED OR STATUTORY, INCLUDING, BUT NOT LIMITED TO, IMPLIED        *
* WARRANTIES OF MERCHANTABILITY AND FITNESS FOR A PARTICULAR PURPOSE APPLY TO  *
* THIS SOFTWARE. THE COMPANY SHALL NOT, IN ANY CIRCUMSTANCES, BE LIABLE FOR    *
* SPECIAL, INCIDENTAL OR CONSEQUENTIAL DAMAGES, FOR ANY REASON WHATSOEVER.     *
********************************************************************************
*
* The following op-amps are covered by this model:
*      MCP6021,MCP6021R,MCP6022,MCP6023,MCP6024
*
* Revision History:
*     REV A: 10-Feb-01, KEB (created model)
*     REV B: 27-Aug-06, HNV (added over temperature, improved output stage,
*                            fixed overdrive recovery time)
*                            (MC_RQ, 27-Aug-06, Level 1.17)
*
* Recommendations:
*      Use PSPICE (other simulators may require translation)
*      For a quick, effective design, use a combination of: data sheet
*            specs, bench testing, and simulations with this macromodel
*      For high impedance circuits, set GMIN=100F in the .OPTIONS statement
*
* Supported:
*      Typical performance for temperature range (-40 to 125) degrees Celsius
*      DC, AC, Transient, and Noise analyses.
*      Most specs, including: offsets, DC PSRR, DC CMRR, input impedance,
*            open loop gain, voltage ranges, supply current, ... , etc.
*      Temperature effects for Ibias, Iquiescent, Iout short circuit
*            current, Vsat on both rails, Slew Rate vs. Temp and P.S.
*
* Not Supported:
*      Chip select (MCP6023)
*      Some Variation in specs vs. Power Supply Voltage
*      Monte Carlo (Vos, Ib), Process variation
*      Distortion (detailed non-linear behavior)
*      Behavior outside normal operating region
*
* Input Stage
V10  3 10 -500M Rser=1m
R10 10 11 690K
R11 10 12 690K
G10 10 11 10 11 288U
G11 10 12 10 12 288U
C11 11 12 0.2P
C12  1  0 6.00P
E12 71 14 POLY(4) 20 0 21 0 26 0 27 0   0 1 1 1 1
G12 1 0 62 0 1m
M12 11 14 15 15 NMI
G13 1 2 62 0 .08m
M14 12 2 15 15 NMI
G14 2 0 62 0 1m
C14  2  0 6.00P
I15 15 4 225.0U
V16 16 4 -300M Rser=1m
GD16 16 1 TABLE {V(16,1)} ((-100,-1p)(0,0)(1m,1u)(2m,1m))
V13 3 13 -300M Rser=1m
GD13 2 13 TABLE {V(2,13)} ((-100,-1p)(0,0)(1m,1u)(2m,1m))
R71  1  0 20.0E12
R72  2  0 20.0E12
R73  1  2 20.0E12
I80  1  2 500E-15
*
* Noise, PSRR, and CMRR
I20 21 20 423U
D20 20  0 DN1
D21  0 21 DN1
C2120 21 20 10F
G26  0 26 POLY(2) 3 0 4 0   0.00 -31.6U -79.4U
R26 26  0 1
E271 275 0 1 0 1
E272 276 0 2 0 1
R271 275 271 37k
R272 276 272 37k
R273 271 0 1k
R274 272 0 1k
C271 275 271 3p
C272 276 272 3p
G27  0 27 POLY(2) 271 0 272 0  -327U 500U 500U
R27 27  0 1
*
* Open Loop Gain, Slew Rate
G30  0 30 12 11 1
R30 30  0 1.00K
C3130 30 0 100F
G31 0 31 3 4 4
I31 0 31 DC 76.9
R31 31  0 1 TC=2.34M,-4.57U
GD31 30 0 TABLE {V(30,31)} ((-100,-1n)(0,0)(1m,0.1)(2m,2))
G32 32 0 3 4 10
I32 32 0 DC 65
R32 32  0 1 TC=1.80M,-3.97U
GD32 0 30 TABLE {V(30,32)} ((-2m,2)(-1m,0.1)(0,0)(100,-1n))
G33  0 33 30 0 1m
R33  33 0 1K
G34  0 34 33 0 1.00
R34  34 0 1K
C34  34 0 14U
G37  0 37 34 0 1m
R37  37 0 1K
C37  37 0 6P
G38  0 38 37 0 1m
R38  39 0 1K
L38  38 39 31U Rser=1m Rpar=1Meg
E38  35 0 38 0 1
G35 33 0 TABLE {V(35,3)} ((-1,-1n)(0,0)(50.0,1n)(55.0,1))
G36 33 0 TABLE {V(35,4)} ((-55.0,-1)(-50.0,-1n)(0,0)(1,1n))
*
* Output Stage
R80 50 0 100MEG
BG50 0 50 I=V(57,96)*2 Rpar=1K Cpar=50F
R58 57  96 0.50
CR58 57 96 0.2N
R57 57  0 500
CR57 57 0 0.1P
C58  5  0 2.00P
G57  0 57 POLY(3) 3 0 4 0 35 0   0 0.75M 0.8M 2.00M
D55  57 55 DM_QS
D55S 57 55 DMS_QS
D56  56 57 DM_QS
D56S 56 57 DMS_QS
E55 55  0 POLY(2) 3 0 51 0 -1.4M 1 -19.1M
E56 56  0 POLY(2) 4 0 52 0 3.5M 1 -19.0M
R51 51 0 1k
R52 52 0 1k
BD51 51 0 V=uramp(V(50))
BD52 52 0 V=-uramp(-V(50))
G53  3  0 POLY(1) 51 0  -50.0U 1M
G54  0  4 POLY(1) 52 0  -50.0U -1M
*
* Current Limit
G99 96 5 99 0 1
R98 0 98 1 TC=3.18M,-842N
G97 0 98 TABLE { V(96,5) } ((-11.0,-23.0M)(-1.00M,-22.7M)(0,0)(1.00M,22.7M)(11.0,23.0M))
E97 99 0 VALUE { V(98)*((V(3)-V(4))*0.00 + 1.00)}
D98 4 5 DESD
D99 5 3 DESD
*
* Temperature / Voltage Sensitive IQuiscent
R61 0 61 1 TC=2.62M,-1.92U
CR61 61 0 10N
G61 3 4 61 0 1
G60 0 61 TABLE {V(3, 4)}
+ ((0,0)(900M,9.2U)(1.1,50U)(1.3,240U)
+ (2.1,870U)(2.2,900U)(5.5,980U))
*
* Temperature Sensistive offset voltage
I73 0 70 DC 1uA
R74 0 70 1 TC=3.5
CR74 70 0 100N
E75 1 71 70 0 1
*
* Temp Sensistive IBias
I62 0 62 DC 1uA
R62 0 62 REXP  245U
CR62 62 0 10N
*
* Models
.MODEL NMI NMOS(L=2.00U W=42.0U KP=20.0U LEVEL=1 )
.MODEL DESD  D   N=1 IS=1.00E-15 Cjo=1F
.MODEL DN1 D   IS=1P KF=12.5F AF=1 Cjo=1F
.MODEL DM_QS D Ron=1m Roff=20G Vfwd=1m Epsilon=20u
.MODEL DMS_QS D Ron=1 Roff=20G Vfwd=0 Epsilon=10u
.MODEL REXP RES TCE= 9.16
.ENDS MCP6021

* Dual MCP6022 wrapper using the physical package pin order above.
.SUBCKT MCP6022 1 2 3 4 5 6 7 8
XA 3 2 8 4 1 MCP6021
XB 5 6 8 4 7 MCP6021
.ENDS MCP6022

* Quad MCP6024 wrapper built from two validated MCP6022 wrappers.
.SUBCKT MCP6024 1 2 3 4 5 6 7 8 9 10 11 12 13 14
XAB 1 2 3 11 5 6 7 4 MCP6022
XCD 8 9 10 11 12 13 14 4 MCP6022
.ENDS MCP6024

* ============================================================================
* SN74CBT3253C - unofficial first-order behavioral model for QSpice
*
* This is not a transistor-level model and is not supplied by Texas
* Instruments.  It is intended for functional and first-order timing studies
* of the Landell QSE commutator.
*
* Physical package pin order (matches SN74CBT3253C.qsym):
*   1=/1OE  2=S1   3=1B4  4=1B3  5=1B2  6=1B1  7=1A  8=GND
*   9=2A   10=2B1 11=2B2 12=2B3 13=2B4 14=S0 15=/2OE 16=VCC
*
* Modelled:
*   - two bidirectional 4:1 FET multiplexers
*   - typical Ron = 3 ohm and Roff = 1 Gohm
*   - approximate port capacitances: common A = 14 pF, each B = 5.5 pF
*   - active-low output enables and a simplified 1.5 V logic threshold
*   - approximately 6.2 ns uniform select-to-switch delay at nominal 5 V
*   - switches disabled while VCC is below 3.5 V
*
* Not modelled:
*   - channel-to-channel timing skew, charge injection, crosstalk
*   - nonlinear Ron versus signal voltage, active undershoot protection
*   - exact break-before-make/overlap behavior and supply current
* ============================================================================

.MODEL CBT3253_SW SW(Ron=3 Roff=1G Vt=2.5 Vh=0.1)

.SUBCKT CBT3253_1MUX B1 B2 B3 B4 A S0 S1 OE VCC GND

* Decode S1:S0.  Relational expressions evaluate to 0 or 1.
* The VCC term prevents operation with the device unpowered.
BRAW1 raw1 GND V={5*(V(VCC,GND)>3.5)*(V(OE,GND)<1.5)*(V(S1,GND)<1.5)*(V(S0,GND)<1.5)}
BRAW2 raw2 GND V={5*(V(VCC,GND)>3.5)*(V(OE,GND)<1.5)*(V(S1,GND)<1.5)*(V(S0,GND)>1.5)}
BRAW3 raw3 GND V={5*(V(VCC,GND)>3.5)*(V(OE,GND)<1.5)*(V(S1,GND)>1.5)*(V(S0,GND)<1.5)}
BRAW4 raw4 GND V={5*(V(VCC,GND)>3.5)*(V(OE,GND)<1.5)*(V(S1,GND)>1.5)*(V(S0,GND)>1.5)}

* A 1 kohm / 8.45 pF control network reaches the switch threshold after
* about 6.2 ns, approximating the worst select-to-B value at nominal 5 V.
* All four paths use the same delay; real-device skew is not specified here.
RDLY1 raw1 ctl1 1k
RDLY2 raw2 ctl2 1k
RDLY3 raw3 ctl3 1k
RDLY4 raw4 ctl4 1k
CDLY1 ctl1 GND 8.45p
CDLY2 ctl2 GND 8.45p
CDLY3 ctl3 GND 8.45p
CDLY4 ctl4 GND 8.45p

* Bidirectional analog signal paths.
SBT1 B1 A ctl1 GND CBT3253_SW
SBT2 B2 A ctl2 GND CBT3253_SW
SBT3 B3 A ctl3 GND CBT3253_SW
SBT4 B4 A ctl4 GND CBT3253_SW

* First-order I/O loading from the data-sheet typical capacitances.
CA   A  GND 14p
CB1  B1 GND 5.5p
CB2  B2 GND 5.5p
CB3  B3 GND 5.5p
CB4  B4 GND 5.5p

.ENDS CBT3253_1MUX

.SUBCKT SN74CBT3253C P1 P2 P3 P4 P5 P6 P7 P8 P9 P10 P11 P12 P13 P14 P15 P16
* First half: 1B1,1B2,1B3,1B4,1A,S0,S1,/1OE,VCC,GND
XCBT1 P6 P5 P4 P3 P7 P14 P2 P1 P16 P8 CBT3253_1MUX
* Second half: 2B1,2B2,2B3,2B4,2A,S0,S1,/2OE,VCC,GND
XCBT2 P10 P11 P12 P13 P9 P14 P2 P15 P16 P8 CBT3253_1MUX
.ENDS SN74CBT3253C
